US04460781
3-[2-Benzyl-4-chlorophenyl]-2-propenonitrile
To a suspension of 10.5 g (0.437 mole) of mineral oil free sodium hydride in 1.2 liters of tetrahydrofuran was added dropwise 58.4 g (0.328 mole) of diethylcyanomethyl phosphonate. After the hyrogen evolution had ceased ca 60 min, 69.4 g (0.3 mole) of 2-benzyl-4-chlorobenzaldehyde, in 75 ml of tetrahydrofuran was added dropwise. The mixture was stirred overnight at room temperature. The tetrahydrofuran solution was decanted, and concentrated at room temperature. The residue was partitioned between 2 liters of water and 1.5 liters of ether. The ether solution was separated, washed with water, and dried with sodium sulfate. The ether was removed at reduced pressure to give a yellow oil which was used without further purification.

reactant | sodium hydride | [H-].[Na+]
reactant | diethylcyanomethyl phosphonate | 0.328 mole, 58.4 g | P(OC(C#N)(CC)CC)([O-])=O
reactant | 2-benzyl-4-chlorobenzaldehyde | 0.3 mole, 69.4 g | C(C1=CC=CC=C1)C1=C(C=O)C=CC(=C1)Cl | C14H11ClO
solvent | tetrahydrofuran | 1.2 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-[2-Benzyl-4-chlorophenyl]-2-propenonitrile | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)C=CC#N | C16H12ClN
